US06943183B2
1. 5-(3,4-Dichloro-benzylsulfanylmethyl)-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one
5-Chloromethyl-6-hydroxy-1-tetralone (315 mg, 1.5 mmol) and (3,4-Dichloro-phenyl)-methanethiol (1.0 mL, 6.0 mmol) were sealed in a 16×120 mm screw capped tube and heated to 40° C. overnight. The excess (3,4-Dichloro-phenyl)-methanethiol was removed in vacuo and the residue was purified by silica gel chromatography (hexanes/ethyl acetate/acetic acid, 58:40:2) to give 350 mg (63%) of the desired product as a tan powder: (LC-MS, APCI) m/z 367/369 [M+H]+.

reactant | 5-Chloromethyl-6-hydroxy-1-tetralone | 1.5 mmol, 315 mg | ClCC1=C2CCCC(C2=CC=C1O)=O | C11H11ClO2
reactant | (3,4-Dichloro-phenyl)-methanethiol | 6.0 mmol, 1.0 mL | ClC=1C=C(C=CC1Cl)CS | C7H6Cl2S
product | 5-(3,4-Dichloro-benzylsulfanylmethyl)-6-hydroxy-3,4-dihydro-2H-naphthalen-1-one | 350 mg, 63% | ClC=1C=C(CSCC2=C3CCCC(C3=CC=C2O)=O)C=CC1Cl | C18H16Cl2O2S
